US06093718
A solution of 1-(tert-butoxycarbonyl)-4-[1-(2-chloro-6-methyl-pyrimidin-4-yl)-4-piperidylcarbonyl]piperazine (15.37 g) in ethanol (350 ml) was hydrogenated over 10% palladium on carbon for 18 hours. The reaction mixture was filtered through celite and solvent evaporated to give, as a solid 1-(tert-butoxycarbonyl)-4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine (14.07 g).

reactant | 1-(tert-butoxycarbonyl)-4-[1-(2-chloro-6-methyl-pyrimidin-4-yl)-4-piperidylcarbonyl]piperazine | 15.37 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC(=NC(=C1)C)Cl | C20H30ClN5O3
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(tert-butoxycarbonyl)-4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine | 14.07 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC(=C1)C | C20H31N5O3
